US08580974B2
5 mg (3R/S,5S)-5-Biphenyl-4-ylmethyl-3-iodomethyl-pyrrolidin-2-one (12-a, R1=H, R5=I) is added to toluene (1 ml). 4-(Dimethylamino)pyridine (0.1 mg) and triethylamine (1 μl) are then added to the mixture. The mixture is heated to 70° C. Di-tert-butyl dicarbonate (2 mg) is then added to the mixture. The mixture is stirred for 1 h at 70° C. The mixture is concentrated under reduced pressure. Ethyl acetate (1 ml) and water (1 ml) are added. The phases are separated. The organic phase is concentrated under reduced pressure to give (R)-5-Biphenyl-4-ylmethyl-3-methylene-2-oxo-pyrrolidine-1-carboxylic acid tert-butyl ester (4-a, R1=Boc). Spectroscopic data as for Example 23, Method 1.

reactant | (3R/S,5S)-5-Biphenyl-4-ylmethyl-3-iodomethyl-pyrrolidin-2-one | 5 mg | C1(=CC=C(C=C1)C[C@@H]1CC(C(N1)=O)CI)C1=CC=CC=C1 | C18H18INO
reactant | toluene | 1 ml | C1(=CC=CC=C1)C | C7H8
reactant | Di-tert-butyl dicarbonate | 2 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
catalyst | 4-(Dimethylamino)pyridine | 0.1 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | triethylamine | 1 μl | C(C)N(CC)CC | C6H15N
product | (R)-5-Biphenyl-4-ylmethyl-3-methylene-2-oxo-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C(C(C[C@H]1CC1=CC=C(C=C1)C1=CC=CC=C1)=C)=O | C23H25NO3
